.SUBCKT MD1521     1 2 3 4 5
*
* power section
*
* power transistor
* base resistor defines peak in
* quiescent current below Vref
QPWR 51 54 52 Q1
RBASE 54 53 78.5E3
DDARl 53 84 DX
*
* temperature dependent dropout voltage
RDROP 51 1 0.71  TC=2.6E-3
*
* quiescent current at Vin > 3.75 V
RQC 1 3 625.0E3
*
* load dependent ground pin current
VCURR 5 52 DC 0
FGND 5 3 POLY(1) VCURR  4.0E-6  0.022
*
* input dependent current limit
* beta / QPWR defines increase factor 
* G / FCL1 defines upper knee current 
* G / ECL1 defines increase factor above current limit 
FCL1 3 60 VCURR  0.21
RCL1 60 3 10
DCL1 60 61 DX
VCL1 61 62 DC 0
ECL1 62 3 5 3  28.5E-3
FCL2  90 3 VCL1 1.0
*
* shutdown section
*
* bias current
IBSD 5 4 DC 2.0E-6
*
* input clamp to -0.6 / 7.0 V
DSDP1 4 70 DX
VSDP1 70 3 DC 6.2
DSDN1 71 4 DX
VSDN1 71 3 DC 0.595
*
* schmitt trigger, trip points 0.95V / 1.2V
GSD1 3 73 72 4 1.0E-1
RSD1 73 3 1.0E4
CSD1 73 3 2.2E-9
GTV1 3 72 POLY(1) 73 3 0.78E-3 1.2E-4
RTV1 72 3 1.0E3
DSDP2 73 74 DX
VSDP2 74 3 DC 2.90
DSDN2 75 73 DX
VSDN2 75 3 DC 0.876
QSD 90 77 3 Q2
RSD3 77 3 1.0E1
GSD3 3 77 73 3 5.3E-2
*
* error amplifier
*
* temperature dependent bias current
IBEA 3 80 DC 68.7E-6
REA1 80 3 1.0E3 TC=-8.0E-3
GEA1 2 3 80 3 1.0E-6
*
* input clamp to -0.6 / 6.0 V
DEAP1 2 81 DX
VEAP1 81 3 DC 5.3
DEAN1 82 2 DX
VEAN1 82 3 DC 0.4
*
* amplifier with 80 dB gain
GEA2 3 84 2 90 10.0
REA2 84 3 1.0E3
*
* feedback for transient response
CFEED 84 88 47.0E-9
RFEED 88 90 1.5E3
*
* reverse input voltage protection
DREV 5 55 DX
RREV 55 3 1.0E9
*
DEAP2 84 85 DX
EEAP2 85 3 POLY(1) 55 3 -1.0 1.0
DEAN2 86 84 DX
VEAN2 86 3 DC 1.0
*
* voltage reference (3.75V)
*
* temperature dependent 3.750V reference
IREF1 3 90 DC 3.750E-3
RREF1 90 3 1.0E3 TC=1.8E-5
*
* line regulation (Vin: 4.3V -> 20V / 1.5 mV)
GLINE 3 90 5 3 1.3E-8
*
* load regulation (Iload: 1mA -> 300mA / -20 mV)
GLOAD 90 3 51 1 9.5E-5
*
* models used
*
.MODEL DX D IS=8.0000E-016 RS=0 XTI=0
.MODEL Q1 PNP IS=1.0E-012 BF=44857 XTI=0 NF=1.06
.MODEL Q2 NPN IS=1.0E-016 BF=1000 XTI=0
*
.ENDS MD1521
