.SUBCKT REF1540    420 300
*
*   1.182 V bandgap reference
*   with temperature drift
*   referenced to Vss 
*
IREF 300 410 1.1819E-3
RREF 410 300 1.0E3  TC=-4.6E-5
*
EBGR1 411 300 410 300 1.0
RBGR1 411 412 0.5
VBGR1 412 420 DC 0
RBGR2 420 300 1.0E9
* sourcing characteristic
FBGR1 300 413 VBGR1 1.0
RBGR3 413 300 1.0E3
DBGR1 413 414 DY
VBGR2 414 300 DC 1.3
FSOURCE 410 300 VBGR2 3.2
* sinking characteristic
FBGR2 300 415 VBGR1 250
RBGR4 415 300 1.0E3
DBGR2 415 416 DY
RBGR5 416 300  10
DBGR3 417 415 DY
VBGR3 417 300 DC -1.0
FSINK 300 410 POLY(1) VBGR3 0 0 1.2
*
.MODEL DY D IS=8.0000e-016 RS=0 XTI=0 
*
.ENDS REF1540
