.SUBCKT REF1635    1 4 7 8
*
* 200 mV reference with temperature drift
*
IREF 4 10 1.0E-3
RREF 10 4 200 TC=3.3E-5
*
* reference amp, poles at 8Hz / 500KHz
*
CIN 8 4 3.0E-12
IBIAS 8 4 DC 3.5E-9
GIN 4 11 10 8 1.0E-5
RP1 11 4 1.0E5
CP1 11 4 1.98E-7
GP2 4 12 11 4 1.0E-5
RP2 12 4 1.0E5
CP2 12 4 3.2E-12
GOUT 4 22 12 4 900
ROUT1 22 4 100
ROUT2 22 1 100
*
* voltage limiter to Vdd-0.8V, Vss + 0.02V
*
DLP 22 23 DX
ELP 23 4 POLY(1) 7 4 -1.792 1.0
DLN 24 22 DX
VLN 24 4 DC 0.995
*
* current limiter to 2mA / 10uA source / sink
*
ECLP 91 0 22 1 5.4
ECLN 92 0 22 1 7.5E2
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 89 DC 0
RLIM 89 0 0.05
FB 22 4 VLIM  10
*
.MODEL DX D IS=8.0000E-016 RS=0 XTI=0
*
.ENDS REF1635
