.SUBCKT X1LTC1043  1  2 25 14 15 ;NESTED SUBCIRCUIT--DO NOT CALL
GSW 1 31 POLY(2) 25 15 1 31 0 0 6.0000E-013 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 2.56E-6
RTC 33 15 9.9541E+002 TC=-2.298E-003
GTC 15 33 31 2 1.0000E-003
GPK1 15 50 POLY(2) 1 15 14  15  0  1.0E-3  -0.60E-3 
RPK1 50 15 1.0E3
DPK1 50 51 DX
RPK2 51 15 1.0E4
GPK2 15 52  POLY(2) 1 15 51 15 0 1.0E-3 -1.4E-3
RPK3 52 15 1.0E3
GSV1 15 53 TABLE {V(14,15)}= (3.0, 6.8E-3) (5.0, 4.15E-3) (7.0, 2.9E-3) (9.0, 2.25E-3) (10.0, 1.95E-3) (12.0, 1.58E-3) (15.0, 1.23E-3) (18.0, 1.0E-3)
RSV1 53 15 1.0E3
GSV2 15 54 POLY(2) 53 15 52 15 0 0 0 0 1.0E-3
RSV2 54 15 1.0E3
GON 31 2 POLY(2) 33 15 54 15 0 9.972E-003 0 0 0 0 0 0 -3.437E-005
RON1 1 31 1.0E12
RON2 31 2 1.0E9
CDS 1 2 5.0000E-013
CDG 2 15 1.0000E-012
CSG 1 15 1.0000E-012
.MODEL DX D IS=8.0000E-016 RS=0 XTI=0
.ENDS X1LTC1043
