.SUBCKT MAX403 1 2 99 50 97
****************INPUT STAGE**********************
*IOS 2 1 0N
* NO OFFSET CURRENT
I1 4 50 250E-6
GIN 2 1 2 1 .55E-9
R1 5 99 2608
R2 6 99 2608
EOS 1 9 POLY(1) 98 30  0.5MV 1
*               ^       OFFSET VOLTAGE, NODE 30 FROM COM. MODE STAGE.
Q1 5 2 103 QX
Q2 6 9 104 QX
REE1 104 4 2608
REE2 103 4 2608
* Second Pole
C4 5 6 4.5PF
*IS 99 50 .5m
*  SETS IS ^
****OUTPUT VOLTAGE LIMITING****
V2 99 11 1.81
D1 12 11 DX
D2 10 12 DX
V3 10 50 1.81
****LEVEL TRANSLATION ****
EH 99 98 99 50 0.5
****GAIN, 1ST POLE****
G3 98 12 5 6 0.0003932
R4 12 98 2.5465E+7
C3 98 12 6.25PF
****COMMON-MODE STAGE****
G11 98 30 104 98 1E-7
R13 30 98 1E3
*
*******************OUTPUT STAGE****************
F6 99 50 VA7 1
F5 99 38 VA8 1
D9 40 38 DX
D10 38 99 DX
VA7 99 40 0
****************
G12 98 32 12 98 1E-3
R15 98 32 1E3
D3 32 36 DX
D4 37 32 DX
V5 35 37 -0.3V
V4 36 35 -0.3V
R16 34 35 200
E1 99 33 99 32 1
VA8 33 34 0V
L 35 97 0.5U
RL 35 97 10MEG
*
***** MODELS USED ******
.MODEL DX D(IS=1E-15)
.MODEL QX NPN(BF=12500)
.ENDS MAX403
